Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ Urgent coronary artery bypass graft x3: Left internal 
mammary artery to left anterior descending artery, and saphenous 
vein grafts to obtuse marginal 2, and posterior descending 
arteries
 
History of Present Illness:
Mr. ___ is a ___ year old man with history of hyperlipidemia, 
hypertension and colon cancer status post ventral hernia repair 
on ___. He presented to the ___ emergency department 
on ___ after developing ___ chest pain that woke him from 
sleep. He reported similar midsternal, nonradiating chest pain 
while sawing a fallen tree a few days prior to his abdominal 
surgery. His symptoms were relieved by sublingual nitroglycerin 
given to him by EMS. Upon arrival to the emergency department, 
the peak troponin was 0.15. He underwent a nuclear stress test 
on ___ which was positive and was thus referred for cardiac 
catheterization. The cardiac catheterization revealed 
multivessel coronary artery disease. He was transferred to ___ 
for surgical evaluation.
 
Past Medical History:
Clostridium Difficile Infection ___
Colon Cancer s/p Chemotherapy (in remission-last dose 6 months
ago)
Gastroesophageal Reflux Disease
Hyperlipidemia
Hypertension
Syncope while on chemo/BP meds

Past Surgical History:
Ventral Hernia Repair at ___ by Dr. ___ 
(___), 
Subtotal Colectomy with primary anastomosis of the terminal 
ileum to sigmoid colon ___
Laproscopic Cholecystectomy
LIJ portacath placement
 
Social History:
___
Family History:
Father - multiple MIs, first age ___, died at age ___     
Mother - 
Son - stent age ___
 
Physical Exam:
Pulse:73, NSR Resp: 20 O2 sat: 98%on RA
B/P  Right: 188/94   Left:186/105
Height:  69inches   Weight: 165lbs

General:elderly man in NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x], well healed LIJ portacath in 
place
Heart: RRR [x]  Irregular []  Murmur [x] grade ___ best at ___
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+[x], well-healing midline, stapled midabdominal incision, C/D/I
Extremities: Warm [x], well-perfused [x]  Edema [x] _____
Varicosities: Bilateral ___ [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2  Left:2
DP           Right: 2  Left:2
___           Right: 2  Left:2
Radial       Right: cath dressing in place  Left:2
Right femoral bruit present

Carotid Bruit        Right: present   Left: none
 
Pertinent Results:
Cardiac Catheterization ___ ___
LMCA: distal 70%
LAD: proximal ostial 90%, mid 50%
LCX: ___ ___ OM, diffuse 90%
RCA: ___ 100%; mid PDA 80%
EF of 44%

Carotid Ultrasound ___ ___
Right ICA <40%  stenosis. Left ICA 40%  stenosis. 

Cardiac Echocardiogram ___ ___
LEFT ATRIUM: Normal ___ size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. The IVC was not 
visualized. The RA pressure could not be estimated. 

LEFT VENTRICLE: Normal LV wall thickness, cavity size, and 
global systolic function (LVEF>55%). Normal regional LV systolic 
function. No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Mildy dilated aortic root. Normal ascending aorta 
diameter. Normal aortic arch diameter. No 2D or Doppler evidence 
of distal arch coarctation. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MS. 
___ MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Suboptimal image quality - poor subcostal 
views.  
Conclusions  

The left atrium is normal in size. The IVC was not well seen for 
assessment of RA pressure. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Regional left ventricular wall motion is normal. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure ___ mmHg above right atrial pressure. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular size and function. No 
clinically significant valvular disease is detected. No 
significant pericardial effusion. Mildly dilated aortic root.

Cardiac Echocardiogram ___ ___
LEFT ATRIUM: Mild ___. Good (>20 cm/s) ___ ejection 
velocity. No thrombus in the ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: A catheter or pacing wire is 
seen in the RA and extending into the RV. No ASD by 2D or color 
Doppler. 

LEFT VENTRICLE: Normal LV wall thickness. Low normal LVEF. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending aorta diameter. Mildly dilated 
descending aorta. Complex (>4mm) atheroma in the descending 
thoracic aorta. No thoracic aortic dissection. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AR. 


MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 

___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

GENERAL COMMENTS: Written informed consent was obtained from the 
patient. A TEE was performed in the location listed above. I 
certify I was present in compliance with ___ regulations. The 
patient was under general anesthesia throughout the procedure. 
No TEE related complications. Results were personally reviewed 
with the MD caring for the patient.  
Conclusions  
Pre-CPB:
The left atrium is mildly dilated. No thrombus is seen in the 
left atrial appendage. No atrial septal defect is seen by 2D or 
color Doppler. Left ventricular wall thicknesses are normal. 
Overall left ventricular systolic function is low normal (LVEF 
50-55%). Right ventricular chamber size and free wall motion are 
normal. 

The descending thoracic aorta is mildly dilated. There are 
complex (>4mm) atheroma in the descending thoracic aorta. No 
thoracic aortic dissection is seen. The aortic valve leaflets 
(3) are mildly thickened. No aortic regurgitation is seen. 

The mitral valve leaflets are mildly thickened. There appear to 
be some filamentous structures associated with the mitral 
leaflets that are seen in the left atrium, possibly representing 
ruptured tertiary chordae. Mitral leaflet morphology remains 
normal. Mild mitral regurgitation is seen. 

Dr. ___ was notified in person of the results at time 
of study.

Post-CPB:
Left ventricular systolic function remains low-normal. Estimated 
EF is 50%. RV systolic function is preserved. 

The MR remains mild. Other valvular function remains unchanged. 
There is no evidence of aortic dissection.   
 

___ 05:45AM BLOOD Hct-28.5*
___ 07:45AM BLOOD WBC-7.1 RBC-3.19* Hgb-10.5* Hct-31.1* 
MCV-98 MCH-32.8* MCHC-33.6 RDW-13.0 Plt ___
___ 03:14AM BLOOD ___ PTT-32.3 ___
___ 05:45AM BLOOD UreaN-22* Creat-1.1 Na-141 K-4.2 Cl-103
___ 05:45AM BLOOD Mg-2.3
 
Brief Hospital Course:
He was admitted to ___ on ___ and was referred to the 
cardiac surgery service for evaluation.  He underwent routine 
preoperative testing and evaluation. He remained clinically 
stable and was taken to the operating room on ___.  He 
underwent Urgent coronary artery bypass graft x3:  Left internal 
mammary artery to left anterior descending artery, and saphenous 
vein grafts to obtuse marginal 2, and
posterior descending arteries (see op note for full details).  
He tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. He required nitro for hypertension which 
weaned off with starting lasix, lopressor and lisinopril. He 
weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He remained hemodynamically stable and was 
transferred to the telemetry floor for further recovery.  Chest 
tubes and pacing wires were discontinued without complication.  
His abominal stables were removed ___ (pre-op hernia 
surgery). He was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 5 he was ambulating freely,wounds was healing, and pain 
was controlled with oral analgesics.  He was discharged to home 
in good condition with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Gabapentin 100 mg PO BID 
3. Fludrocortisone Acetate 0.1 mg PO QAM 
4. Ferrous Sulfate 65 mg PO DAILY 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Atorvastatin 20 mg PO DAILY 
7. Tamsulosin 0.4 mg PO HS 
8. Ranitidine 150 mg PO BID 
9. Aspirin 81 mg PO DAILY
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
3. Fludrocortisone Acetate 0.1 mg PO QAM 
4. Gabapentin 100 mg PO BID 
5. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*1
6. Ranitidine 150 mg PO BID 
7. Tamsulosin 0.4 mg PO HS 
8. Docusate Sodium 100 mg PO BID 
9. Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1
10. Senna 17.2 mg PO HS 
11. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
12. Ferrous Sulfate 65 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 3
Past medical history:
Hypertension (reports baseline SBP 160s)
Dyslipidemia
GERD
Colon cancer s/p Chemotherapy (in remission-last dose 6 months 
ago)
Food poisoning f/b CDiff infection ___
Syncope while on chemo/BP meds
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with 
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage.
abd: CDI sterri strips in place
Edema trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___